US08389513B2
A solution of (R)-3,3,3-trifluoro-2-hydroxy-2-methyl-propionic acid (CAS44864-47-3) (20 mg, 0.125 mmol) in N,N-dimethylformamide (1 ml), O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium-hexafluorophosphate (HATU) (66 mg, 0.167 mmol) and diisopropylethylamine (35 mg, 0.267 mmol) was stirred at room temperature for 45 minutes. Thereafter, [(R)-4-(5-amino-2-fluoro-phenyl)-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-yl]-carbamic acid tert-butyl ester (30 mg, 0.063 mmol) (intermediate XXV-1) was added and stirring continued at room temperature overnight. For the workup, formic acid was added to the incomplete reaction, the mixture was divided in two portions and directly injected on a preparative HPLC column using a gradient of water (+0.1% of formic acid)/acetonitrile=90:10 to 5:95 as the eluent. The {(R)-5,5-difluoro-4-[2-fluoro-5-((R)-3,3,3-trifluoro-2-hydroxy-2-methyl-propionylamino)-phenyl]-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-yl}-carbamic acid tert-butyl ester was obtained as a colorless, amorphous solid (8 mg, 25% of theory). MS (ISP): m/z=500.2 [M+H]+. b) (R)—N-[3-((R)-2-Amino-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-4-yl)-4-fluoro-phenyl]-3,3,3-trifluoro-2-hydroxy-2-methyl-propionamide 2,2,2-trifluoroacetate A solution of the {(R)-5,5-difluoro-4-[2-fluoro-5-((R)-3,3,3-trifluoro-2-hydroxy-2-methyl-propionyl-amino)-phenyl]-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-yl}-carbamic acid tert-butyl ester (8 mg, 0.016 mmol) in 2,2,2-trifluoroacetic acid was stirred at room temperature during 1 hour. Thereafter, the reaction mixture was evaporated at reduced pressure and kept under high vacuum overnight to yield the title compound as yellow oil in quantitative yield. MS (ISP): m/z=400.1 [M+H]+.

reactant | (R)-3,3,3-trifluoro-2-hydroxy-2-methyl-propionic acid | 0.125 mmol, 20 mg | FC([C@](C(=O)O)(C)O)(F)F | C4H5F3O3
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.167 mmol, 66 mg | N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 0.267 mmol, 35 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | [(R)-4-(5-amino-2-fluoro-phenyl)-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-yl]-carbamic acid tert-butyl ester | 0.063 mmol, 30 mg | C(C)(C)(C)OC(NC=1OCC([C@@](N1)(C)C1=C(C=CC(=C1)N)F)(F)F)=O | C16H20F3N3O3
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | formic acid | C(=O)O | CH2O2
product | {(R)-5,5-difluoro-4-[2-fluoro-5-((R)-3,3,3-trifluoro-2-hydroxy-2-methyl-propionylamino)-phenyl]-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-yl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1OCC([C@@](N1)(C)C1=C(C=CC(=C1)NC([C@@](C(F)(F)F)(C)O)=O)F)(F)F)=O | C20H23F6N3O5
